US07399759B2
Diethyl 2-(2-cyano-4-pyridyl)ethylphosphonate
Diethyl 2-(4-pyridyl)ethylphosphonate N-oxide (9.9 g, 38 mmol) was dissolved in nitroethane (200 ml), and trimethylsilyl cyanide (7.5 g, 75 mmol) and N,N-dimethylcarbamoyl chloride (6.1 g, 56 mmol) were added thereto. The mixture was stirred at room temperature for 12 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate-methanol (15:1) were collected and concentrated to give the titled compound (7.3 g, 71%).

reactant | Diethyl 2-(4-pyridyl)ethylphosphonate N-oxide | 38 mmol, 9.9 g | CCOP(=O)(CCC1=CC=[N+](C=C1)[O-])OCC | C11H18NO4P
reactant | trimethylsilyl cyanide | 75 mmol, 7.5 g | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 56 mmol, 6.1 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | nitroethane | 200 ml | [N+](=O)([O-])CC | C2H5NO2
product | Diethyl 2-(2-cyano-4-pyridyl)ethylphosphonate | 7.3 g, 71% | C(#N)C1=NC=CC(=C1)CCP(OCC)(OCC)=O | C12H17N2O3P
